US07465731B2
To a solution of ethyl (2E)-3-{6-[(3R)-3-piperidinylamino]-3-pyridinyl}acrylate dihydrochloride (300 mg, 0.86 mmol) in DMF (4 mL) were added triethylamine (349 mg, 3.45 mmol) and 4-chlorobenzoyl chloride (181 mg, 1.03 mmol) at 0° C. under nitrogen and the mixture was stirred at same temperature for 1 hr and at ambient temperature for 2 hrs. The reaction mixture was poured into water and extracted with EtOAc. The organic layer was separated, washed water and brine, dried over magnesium sulfate, and evaporated in vacuo. The residue was purified by preparative thin layer chromatography (hexane-EtOAc=1-1) to give ethyl (2E)-3-(6-{[(3R)-1-(4-chlorobenzoyl)-3-piperidinyl]amino}-3-pyridinyl)acrylate (270 mg, 76%) as an amorphous powder.

reactant | ethyl (2E)-3-{6-[(3R)-3-piperidinylamino]-3-pyridinyl}acrylate dihydrochloride | 0.86 mmol, 300 mg | Cl.Cl.N1C[C@@H](CCC1)NC1=CC=C(C=N1)/C=C/C(=O)OCC
reactant | triethylamine | 3.45 mmol, 349 mg | C(C)N(CC)CC | C6H15N
reactant | 4-chlorobenzoyl chloride | 1.03 mmol, 181 mg | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
reactant | water | O | H2O
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
product | ethyl (2E)-3-(6-{[(3R)-1-(4-chlorobenzoyl)-3-piperidinyl]amino}-3-pyridinyl)acrylate | 270 mg, 76% | ClC1=CC=C(C(=O)N2C[C@@H](CCC2)NC2=CC=C(C=N2)/C=C/C(=O)OCC)C=C1 | C22H24ClN3O3
